US07671235B2
A solution of 3-(6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-propionitrile (0.740 g, 2.27 mmol was dissolved in dry THF, and the reaction mixture was stirred under argon at room temperature. BH3 THF (6 mL) was added dropwise, and the reaction mixture was allowed to stir for 15 hours. The reaction mixture was quenched by careful addition of 10% aqueous HCl, followed by stirring for 10 minutes. The reaction mixture was placed under reduced pressure to remove THF. The resulting aqueous solution was diluted with 10 mL of EtOH, made basic by addition of 0.5 M NaOH solution, and warmed to 75° C. for 15 minutes. The solution was cooled and extracted three times with 150 mL of EtOAc. The combined organic layers were washed with water, saturated brine, and dried (MgSO4). Evaporation of the solvent under reduced pressure gave an oil that was purified by elution on silica gel (MeOH:CHCl3 5:95). Removal of the solvent yielded 0.190 g (0.577 mmol, 25.4%) of 3-(6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-propylamine as an oil, which was recrystallized from EtOH/EtOAc as an oxalate salt (0.140 g, 0.334 mmol, 14.7% overall yield). MS: 330 (M+H)+.

reactant | 3-(6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-propionitrile | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CCC#N | C19H19NO2S
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 3-(6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-propylamine | 0.577 mmol, 0.190 g, 25.4% | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CCCN | C19H23NO2S
